US04946843
To a stirred solution of 25.4 parts of 2-chloro-3-nitropyridine, 29.5 parts of 2-pyrazinemethanamine dihydrochloride and 235 parts of N,N-dimethylacetamide were added 67.8 parts of sodium carbonate. The reaction mixture was stirred for 1.5 hours at 100° C. The reaction mixture was poured into water and 4-methyl-2-pentanone. The whole was filtered twice over diatomaceous earth and the layers were separated. The organic layer was dried, filtered and evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 3.6 parts (10%) of N-(3-nitro-2-pyridinyl)-2-pyrazinemethanamine (int. 27).

reactant | 2-chloro-3-nitropyridine | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-pyrazinemethanamine dihydrochloride | Cl.Cl.N1=C(C=NC=C1)CN
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | N-(3-nitro-2-pyridinyl)-2-pyrazinemethanamine | 10% | [N+](=O)([O-])C=1C(=NC=CC1)NCC1=NC=CN=C1 | C10H9N5O2
